US05643932
In 150 ml of chloroform-ethanol was suspended 3.40 g of 2-(3-methoxy-4-methylthiophenyl)-4-(3,4-dihydrocarbostyril-6-yl)thiazole. Thereto was added, in small portions, 1.97 g of methachloroperbenzoic acid (80%) under ice-cooling. The mixture was stirred for 1 hour. Then, the mixture was returned to room temperature and stirred overnight. Thereto was added an aqueous sodium carbonate solution. The mixture was extracted with chloroform three times. The combined extract was washed with a saturated aqueous sodium chloride solution and dried over magnesium sulfate. The solvent was distilled off and the resulting crystals were recrystallized from dimethylformamide to obtain 0.50 g of 2-(3-methoxy-4-methylsulfinylphenyl)-4-(3,4-dihydrocarbostyril-6-yl)thiazole as light yellow acicular crystals.

reactant | 2-(3-methoxy-4-methylthiophenyl)-4-(3,4-dihydrocarbostyril-6-yl)thiazole | 3.40 g | COC=1C=C(C=CC1SC)C=1SC=C(N1)C=1C=C2CCC(NC2=CC1)=O | C20H18N2O2S2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform ethanol | 150 ml | C(Cl)(Cl)Cl.C(C)O
product | 2-(3-methoxy-4-methylsulfinylphenyl)-4-(3,4-dihydrocarbostyril-6-yl)thiazole | 0.50 g | COC=1C=C(C=CC1S(=O)C)C=1SC=C(N1)C=1C=C2CCC(NC2=CC1)=O | C20H18N2O3S2
